US06673799B1
2-(1-Imidazolyl)-4-nitropyridine N-oxide
A 3.22 g portion of 2-(1-imidazolyl)pyridine N-oxide was added to 7.6 g of concentrated sulfuric acid, a mixed solution of 5.2 g of fuming nitric acid and 2.6 g of concentrated sulfuric acid was gradually added dropwise thereto, and then the mixture was heated at 130° C. for about 2.5 hours. The reaction mixture was spontaneously cooled, poured into 150 g of ice-cooled water, neutralized with potassium carbonate and then extracted with 300 ml of ethyl acetate. The organic layer was dried and then concentrated, and the thus obtained mixture was subjected to a silica gel column chromatography and eluted with chloroform-methanol-28% aqueous ammonia (200:0.9:0.1, v/v/v) to obtain 0.12 g of the title compound as yellow crystals.

reactant | 2-(1-imidazolyl)pyridine N-oxide | N1(C=NC=C1)C1=[N+](C=CC=C1)[O-] | C8H7N3O
reactant | sulfuric acid | 7.6 g | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 5.2 g | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 2.6 g | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-(1-Imidazolyl)-4-nitropyridine N-oxide | 0.12 g | N1(C=NC=C1)C1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C8H6N4O3
